US06890942B2
4-(2,4-Dimethyl-thiazole-5-sulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with 2,4-dimethyl-thiazole-5-sulfonic acid amide as described in the preparation of compound 1 to yield the title compound. 1H NMR (500 MHz, CDCl3) δ: 2.71 (s, 6), 3.63 (s, 3), 4.76 (s, 2), 6.47 (s, 1), 7.01 (m, 2), 7.26 (m, 2). 13C NMR (125 MHz, CDCl3) δ: 16.51, 19.25, 48.29, 63.20, 92.66, 115.70, 115.87, 127.43, 130.23, 130.30, 130.97, 158.92, 159.24, 159.58, 161.69, 163.66, 170.81, 172.19.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | 2,4-dimethyl-thiazole-5-sulfonic acid amide | CC=1SC(=C(N1)C)S(=O)(=O)N | C5H8N2O2S2
product | 4-(2,4-Dimethyl-thiazole-5-sulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C2=C(N=C(S2)C)C)O)=O)OC)C=C1 | C17H18FN3O6S2
